*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/3.30e-03[uF]/16[V]
* Murata P/N :GRM15XB11C332MA86
* Property : C = 3.30e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XB11C332MA86 Port1 Port2
C01 Port1 N01 3.23e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.21e-10
R03 N02 N03 1.45e-01
C04 N03 N04 3.72e-07
R04 N03 N04 5.52e+03
C05 N04 N05 4.15e-07
R05 N04 N05 4.28e+02
C06 N05 N06 4.55e-07
R06 N05 N06 3.91e+01
C07 N06 N07 5.84e-07
R07 N06 N07 4.53e+00
C08 N07 N08 3.29e-07
R08 N07 N08 1.94e+00
C09 N08 N09 3.05e-07
R09 N08 N09 3.57e-01
C10 N09 N10 1.03e-07
R10 N09 N10 1.36e-01
L11 N10 N11 4.29e-11
R11 N10 N11 4.22e-01
L12 N11 N12 1.10e-11
R12 N11 N12 2.45e-01
C13 N12 N13 2.83e-09
L13 N12 N13 1.65e-11
R13 N12 N13 9.02e-02
C14 N13 Port2 1.24e-11
L14 N13 Port2 3.14e-11
R14 N13 Port2 4.15e+00
.ENDS GRM15XB11C332MA86
